US07279489B2
A. 2-Cyclopentyl-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline
The title compound was prepared as described in Example 14. C, using 6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline (0.5 g, 1.39 mmol) and cyclopentanone (0.951 g, 11.3 mmol) to provide the title compound (0.495 g, 83% yield): ES-MS (m/z) 428 [M+H]+.

reactant | 6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 1.39 mmol, 0.5 g | COC=1C=C2CCNC(C2=CC1)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H25NO2
reactant | cyclopentanone | 11.3 mmol, 0.951 g | C1(CCCC1)=O | C5H8O
product | 2-Cyclopentyl-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 0.495 g, 83% yield | C1(CCCC1)N1C(C2=CC=C(C=C2CC1)OC)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C29H33NO2
